US07888362B2
By a similar method as in Example 1, 6-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3,4-dihydro-1H-quinolin-2-one was prepared from 6-(3-chloropropoxy)-3,4-dihydro-1H-quinolin-2-one, and after it was made into a methanol solution, 0.5N hydrochloric acid methanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from a mixed solvent of ethyl acetate-diethyl ether and thereby 6-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3,4-dihydro-1H-quinolin-2-one hydrochloride was obtained in the form of a white powder.

reactant | 6-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3,4-dihydro-1H-quinolin-2-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC=2C=C1CCC(NC1=CC2)=O | C24H27N3O2S
reactant | 6-(3-chloropropoxy)-3,4-dihydro-1H-quinolin-2-one | ClCCCOC=1C=C2CCC(NC2=CC1)=O | C12H14ClNO2
reactant | hydrochloric acid methanol | 0.5N | CO.Cl
solvent | methanol | CO | CH4O
product | 6-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-3,4-dihydro-1H-quinolin-2-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC=2C=C1CCC(NC1=CC2)=O | InChI=1S/C24H27N3O2S.ClH/c28-24-8-5-18-17-19(6-7-21(18)25-24)29-15-2-10-26-11-13-27(14-12-26)22-3-1-4-23-20(22)9-16-30-23;/h1,3-4,6-7,9,16-17H,2,5,8,10-15H2,(H,25,28);1H
